US05478691
Into 2000-ml autoclave were charged 86.5 g (0.8 mol) of m-cresol, 27.2 g (0.2 tool) of 2,3,5-trimethylphenol, 75.0 g (0.925 tool) of formalin (37% by weight aqueous formaldehyde solution), 7.56 g (0.06 mol) of oxalic acid dihydrate, 384.5 g of dioxane and 77.5 g of water. Thereafter, the autoclave was immersed in an oil bath and the internal temperature thereof was kept at 140° C. to effect polycondensation for 6 hours. Thereafter, the internal temperature of the autoclave was returned to the neighborhood of room temperature, and the reaction mixture was taken out and allowed to stand until the suspension was separated to two layers, after which the resin layer was taken out. Thereto was added 432 g of ethyl cellosolve acetate, and unreacted formaldehyde, dioxane and water were removed by distillation under reduced pressure, to obtain an ethyl cellosolve acetate solution. The solution thus obtained was washed with water to remove the oxalic acid used as a catalyst and the ethyl cellosolve acetate and water were removed by distillation under reduced pressure to recover Resin A [hereinafter referred to as "Resin A (8)"].

reactant | m-cresol | 0.8 mol, 86.5 g | C1=C(C=CC=C1O)C | C7H8O
reactant | 2,3,5-trimethylphenol | 27.2 g | CC1=C(C=C(C=C1C)C)O | C9H12O
reactant | formalin | 75.0 g | C=O | CH2O
reactant | oxalic acid dihydrate | 0.06 mol, 7.56 g | O.O.C(C(=O)O)(=O)O
solvent | water | 77.5 g | O | H2O
solvent | dioxane | 384.5 g | O1CCOCC1 | C4H8O2
product | ethyl cellosolve acetate | CCOCCOC(=O)C | C6H12O3
